US06127354
(2-Hydroxyphenyl)acetic acid (9.89 g, 63.7 mmol) and 1-hydroxybenzotriazole hydrate (8.61 g, 63.7 mmol) were dissolved in N,N-dimethylformamide (50 ml) and dichloromethane (200 ml). The solution was cooled to 0° C. N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (8.67 g, 63.7 mmol) was added. The reaction mixture was stirred for 30 min at 0° C. A 8.0 M solution of methyl amine (39 ml, 318 mmol) was added. The reaction mixture was stirred for 16 h, while it was slowly warming up to room temperature. It was diluted with ethyl acetate (600 ml) and washed with a 10% aqueous solution of sodium hydrogen sulfate (2×300 ml). The combined aqueous phases were extracted with ethyl acetate. The combined organic layers were washed with saturated sodium hydrogen carbonate solution (300 ml) and dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (180 g), using ethyl acetate/heptane (1:1) as eluent to give 4.90 g of 2-(2-hydroxyphenyl)-N-methylacetamide.

reactant | (2-Hydroxyphenyl)acetic acid | 63.7 mmol, 9.89 g | OC1=C(C=CC=C1)CC(=O)O | C8H8O3
reactant | 1-hydroxybenzotriazole hydrate | 63.7 mmol, 8.61 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 63.7 mmol, 8.67 g | Cl.CN(CCCN=C=NCC)C
reactant | methyl amine | 318 mmol, 39 ml | CN | CH5N
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 600 ml | C(C)(=O)OCC | C4H8O2
product | 2-(2-hydroxyphenyl)-N-methylacetamide | 4.90 g | OC1=C(C=CC=C1)CC(=O)NC | C9H11NO2
